US04031246
a. 6-(2-Chloro-4-methoxyphenoxy)hexyl bromide.
A solution of 29.6 g. (0.74 mole) sodium hydroxide pellets in 400 ml. absolute ethanol was prepared with stirring at room temperature and a solution of 108.0 g. (0.68 mole) 2-chloro-4-methoxyphenol in 200 ml. absolute ethanol was added in a fine stream. The solution was stirred at room temperature for 15 minutes, then warmed gently in a steam bath for one-half hour. The reaction mixture was chilled to about 5° C. in an ice bath and 500 g. (2.05 moles) 1,6-dibromohexane was added. The reaction was stirred and allowed to warm to room temperature, then stirred for 6 hours at room temperature and boiled overnight at reflux.

reactant | sodium hydroxide | 0.74 mole | [OH-].[Na+]
reactant | 2-chloro-4-methoxyphenol | 0.68 mole | ClC1=C(C=CC(=C1)OC)O | C7H7ClO2
reactant | 1,6-dibromohexane | 2.05 moles | BrCCCCCCBr | C6H12Br2
solvent | ethanol | C(C)O | C2H6O
product | 6-(2-Chloro-4-methoxyphenoxy)hexyl bromide | ClC1=C(OCCCCCCBr)C=CC(=C1)OC | C13H18BrClO2
